US08420629B2
Step 3. 1-(cyanomethyl)-3-oxocyclobutanecarbonitrile
A mixture of water (2 mL, 0.1 mol) and 1,4-dioxane (6 mL, 0.08 mol), 1-(cyanomethyl)-3-methylenecyclobutanecarbonitrile (0.270 g, 0.00204 mol), and 0.2 M of osmium tetraoxide in water (0.04 mL) was stirred for 5 min, during which time the mixture became brown. While the temperature was maintained at room temperature, sodium periodate (0.919 g, 0.00430 mol) was added in portions over a period of 30 min. The mixture was stirred overnight. The mixture was extracted with EtOAc and the combined organic layers were dried over MgSO4. After removal of the solvents, the crude product was used directly in next step.

reactant | 1,4-dioxane | 0.08 mol, 6 mL | O1CCOCC1 | C4H8O2
reactant | 1-(cyanomethyl)-3-methylenecyclobutanecarbonitrile | 0.00204 mol, 0.270 g | C(#N)CC1(CC(C1)=C)C#N | C8H8N2
reactant | sodium periodate | 0.00430 mol, 0.919 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | water | 0.04 mL | O | H2O
catalyst | osmium tetraoxide | 0.2 M | [Os](=O)(=O)(=O)=O
solvent | water | 0.1 mol, 2 mL | O | H2O
product | 1-(cyanomethyl)-3-oxocyclobutanecarbonitrile | C(#N)CC1(CC(C1)=O)C#N | C7H6N2O
